US05013749
(b) Methyl (±)-(E)-7-[4,5-bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-5-hydroxy-3-oxo-6-heptenoate
From (E)-3-[4,5-bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-2-propenal (0.100 g), methyl acetoacetate (0.028 ml), sodium hydride (0.031 g, washed with dry THF (3×3 ml)) and n-butyl lithium (1.4M in, hexanes, 0.26 ml) by the process as described for the preparation of Intermediate (10 a) to afford a dark orange oil which was purified by FCC eluting with System A (2:3, 1:1) to afford the title compound (0.054 g) as an orange solid, Rf (System A 2:3) 0.18;

reactant | (E)-3-[4,5-bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-2-propenal | 0.100 g | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=C(C=C1)F)/C=C/C=O)C(C)C | C21H18F2N2O
reactant | methyl acetoacetate | 0.028 ml | C(CC(=O)C)(=O)OC | C5H8O3
reactant | sodium hydride | 3 ml, 0.031 g | [H-].[Na+]
reactant | n-butyl lithium | 1.4M, 0.26 ml | C(CCC)[Li]
product | Methyl (±)-(E)-7-[4,5-bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-5-hydroxy-3-oxo-6-heptenoate | 0.054 g | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=C(C=C1)F)/C=C/C(CC(CC(=O)OC)=O)O)C(C)C | C26H26F2N2O4
